US05672588
(R)-3-methyl-1-phenoxy-2-butylamine (0.6 g, 2.8 mmol) was reacted with 9-(2,3,5-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine (1.4 g, 2.2 mmol) in dioxan (20 ml) in the presence of triethylamine (0.5 g, 5.0 mmol). The reaction mixture was stirred at room temperature for 40 h before being filtered and evaporated. The product (after purification by flash chromatography) was debenzoylated with methanolic ammonia to provide the product (after column chromatography) as a foam which solidified on coevaporation with dichloromethane. 2-Chloro- N-[(R)-3-methyl-1-phenoxy2-butyl]adenosine (0.46 g, 44%) was obtained as a white solid, mp 95°-100° C., 1H NMR (DMSO-d6)δ 0.95, 0.98 (6H, 2d, 2×--CH3), 2.10 (1H, m, --C H(CH3)2), 3.53-3.60 (1H, m, H-5'a), 3.63-3.71 (1H, m, H-5'b), 3.95 (1H, q, H-4), 4.07-4.23 (3H, m, H-3' and --CH2 --), 4.96 (1H, m, --C--H), 4.56 (1H, q, H-2'), 5.08 (1H, t, 5'-OH), 5.23, 5.49 (2H, 2d, 2' and 3'-OH), 5.84 (1H, d, H-1'), 6.87-6.97 (3H, m, Ar--H), 7.24-7.31 (2H, dd, Ar--H), 8.36 (1H, d, --N--H), 8.40 (1H, s, H-8).

reactant | (R)-3-methyl-1-phenoxy-2-butylamine | 2.8 mmol, 0.6 g | CC([C@H](COC1=CC=CC=C1)N)C | C11H17NO
reactant | 9-(2,3,5-tri- O-benzoyl-β-D-ribofuranosyl)-2,6-dichloro-9H-purine | 2.2 mmol, 1.4 g | C(C1=CC=CC=C1)(=O)O[C@H]1[C@@H](O[C@@H]([C@H]1OC(C1=CC=CC=C1)=O)COC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)Cl)Cl | C31H22Cl2N4O7
reactant | triethylamine | 5.0 mmol, 0.5 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | dioxan | 20 ml | O1CCOCC1 | C4H8O2
product | 2-Chloro- N-[(R)-3-methyl-1-phenoxy2-butyl]adenosine | 0.46 g, 44% | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N[C@@H](COC1=CC=CC=C1)C(C)C | C21H26ClN5O5
